US09403835B2
Step 3: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(3-fluoro-1-methyl-piperidin-4-yloxy)-phenyl]-methanone
A mixture of (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(3-fluoro-piperidin-4-yloxy)-phenyl]-methanone hydrochloride (124 mg; 0.26 mmol; 1 eq.), paraformaldehyde (70 mg; 0.78 mmol; 1 eq.), sodium triacetoxyborohydride (110 mg; 0.52 mmol; 2 eq.) and AcOH (30 μL; 0.52 mmol; 2 eq.) in DCE (1.5 mL) was stirred at reflux for 1.5 hour. The reaction mixture was diluted with sat. aq. Na2CO3 and extracted with EA (3×). The combined organic layer was dried over magnesium sulfate and concentrated in vacuo. Purification by mass directed preparative HPLC afforded the title compound (20 mg, 6%) as a white solid. HPLC (max plot) 97.0%, Rt 2.70 min. UPLC/MS: (MS+) 458.4 ([M+H]+).

reactant | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(3-fluoro-piperidin-4-yloxy)-phenyl]-methanone hydrochloride | 0.26 mmol, 124 mg, 1 eq. | Cl.ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OC3C(CNCC3)F)C
reactant | paraformaldehyde | 0.78 mmol, 70 mg, 1 eq. | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.52 mmol, 110 mg, 2 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.52 mmol, 30 μL, 2 eq. | CC(=O)O | C2H4O2
solvent | DCE | 1.5 mL | ClCCCl | C2H4Cl2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(3-fluoro-1-methyl-piperidin-4-yloxy)-phenyl]-methanone | 20 mg, 6% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OC3C(CN(CC3)C)F)C | C23H25ClFN5O2
